US08138187B2
2-Iodoaniline (4.65 g, 21.2 mmol), trimethyl(pent-1-ynyl)silane (3.27 g, 23.3 mmol), lithium chloride (0.96 g, 22.6 mmol) and sodium carbonate (6.75 g, 63.7 mmol) were combined in dimethylformamide (absolute, 64 ml) in an argon atmosphere. The catalyst ([Pd(dppf)Cl2×CH2Cl2], 1.78 g, 2.2 mmol) was then added. The solution was stirred at 105-112° C. (oil bath temperature) for 7 h. The black reaction mixture was cooled to room temperature and water (200 ml) and ethyl acetate (200 ml) were added in succession. After stirring for one hour, the mixture was filtered over Celite. The phases were separated. The organic phase was washed with 10 per cent strength citric acid solution (100 ml) and with saturated sodium chloride solution (100 ml). The organic phase was dried with sodium sulfate. After filtration, the volatile constituents were removed completely in vacuo. The residue (7.03 g of brown oil) was separated by chromatography [silica gel 60 (150 g); cyclohexane/trichloromethane 10:1 (550 ml); cyclohexane/trichloromethane 5:1 (1,650 ml)]. 2.35 g (50%) of 3-propyl-2-trimethylsilanyl-1H-indole were isolated as a brown oil (contaminated).

reactant | 2-Iodoaniline | 21.2 mmol, 4.65 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | trimethyl(pent-1-ynyl)silane | 23.3 mmol, 3.27 g | C[Si](C#CCCC)(C)C | C8H16Si
reactant | lithium chloride | 22.6 mmol, 0.96 g | [Cl-].[Li+]
reactant | sodium carbonate | 63.7 mmol, 6.75 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 64 ml | CN(C=O)C | C3H7NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-propyl-2-trimethylsilanyl-1H-indole | 2.35 g, 50% | C(CC)C1=C(NC2=CC=CC=C12)[Si](C)(C)C | C14H21NSi
